US08461178B2
1-(7-Bromo-[1,5]naphthyridin-2-yl)-3-phenethyl-urea
Under argon atmosphere, 201 mg (897 μmol, 1 eq) of 7-bromo-[1,5]naphthyridin-2-ylamine and 294 mg (993 μmol, 1.1 eq) of triphosgene were introduced in 10 mL of pyridine at 0° C. The mixture was stirred at reflux for 1 h. The mixture was allowed to reach rt and 238 μL (1.89 mmol, 2.1 eq) of 2-phenylethylamine were added. The mixture was stirred at reflux for 1 h. The mixture was allowed to reach rt and water was added. Aqueous layer was extracted with methylene chloride. Organic layers were dried over Na2SO4, filtered and evaporated to dryness. The residue was purified by column chromatography using methylene chloride/ethanol: 96/4 as eluent. The solvent was evaporated to dryness to afford 80 mg of yellow powder with 24% yield.

reactant | 7-bromo-[1,5]naphthyridin-2-ylamine | 897 μmol, 201 mg, 1 eq | BrC1=CN=C2C=CC(=NC2=C1)N | C8H6BrN3
reactant | triphosgene | 993 μmol, 294 mg, 1.1 eq | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 2-phenylethylamine | 1.89 mmol, 238 μL, 2.1 eq | C1(=CC=CC=C1)CCN | C8H11N
reactant | water | O | H2O
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 1-(7-Bromo-[1,5]naphthyridin-2-yl)-3-phenethyl-urea | 80 mg, 24% yield | BrC1=CN=C2C=CC(=NC2=C1)NC(=O)NCCC1=CC=CC=C1 | C17H15BrN4O
